US09193741B2
Synthesis of 1-(4-(2-amino-9-methyl-8-(methylthio)-9H-purin-6-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
This compound was synthesized from 2-amino-6-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-8-methylthio-9H-purine using methyl iodide, yielding the title compound in 97% yield.

reactant | 2-amino-6-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-8-methylthio-9H-purine | NC1=NC(=C2N=C(NC2=N1)SC)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O | C18H20ClN7O2S
reactant | methyl iodide | CI | CH3I
product | 1-(4-(2-amino-9-methyl-8-(methylthio)-9H-purin-6-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | 97% yield | NC1=NC(=C2N=C(N(C2=N1)C)SC)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O | C19H22ClN7O2S
